US08895733B2
3-{4-Amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-N-(6-methoxypyridin-3-yl)-1,2,4-oxadiazole-5-carboxamide (Method 13)
To a solution of ethyl 3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazole-5-carboxylate (prepared in an analogous manner to Example 73, 0.2 g, 0.58 mmol) in toluene (10 mL) at 0 C was added trimethylaluminium (2M in toluene, 0.88 mL, 1.7 mmol) over a period of 5 min and the mixture was then stirred at room temperature for 2 h. 6-Methoxypyridin-3-amine (0.21 g, 1.7 mmol) was added and the mixture was heated to 60 C for 15 h. The mixture was cooled to room temperature and quenched with ice water. The mixture was extracted with EtOAc (3×20 mL) and the organic layers were concentrated under vacuum. The residue was slurried in acetonitrile for 30 min and the resultant precipitate was filtered off to afford the title compound (0.100 g, 43%).

reactant | ethyl 3-{4-amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-1,2,4-oxadiazole-5-carboxylate | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C(=O)OCC | C15H15N7O3
reactant | trimethylaluminium | 1.7 mmol, 2M, 0.88 mL | C[Al](C)C
reactant | 6-Methoxypyridin-3-amine | 1.7 mmol, 0.21 g | COC1=CC=C(C=N1)N | C6H8N2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-Amino-6-[methyl(phenyl)amino]-1,3,5-triazin-2-yl}-N-(6-methoxypyridin-3-yl)-1,2,4-oxadiazole-5-carboxamide | 0.100 g, 43% | NC1=NC(=NC(=N1)N(C1=CC=CC=C1)C)C1=NOC(=N1)C(=O)NC=1C=NC(=CC1)OC | C19H17N9O3
